* Test AC mode support for MAX, MIN and PP measures.
* To be conservative, there are subtests for each
* valid operator (V, VR, VI, VP, VM and VDB) for
* each measure type.  Expressions are also tested.
*
* See SON Bug 1140 for more details
*****************************************************

* Trivial high-pass filter (V-C-R) circuit
R1 b 0 2
C1 a b 1u
V1 a 0 DC 0V AC 1

.print AC vr(b) vi(b) vm(b) vp(b) vdb(b)
.ac dec 5 100Hz 1e6

* MAX
.MEASURE AC maxvb max v(b)
.MEASURE AC maxvmb max vm(b)
.MEASURE AC maxvrb max vr(b)
.MEASURE AC maxvib max vi(b)
.MEASURE AC maxvpb max vp(b)
.MEASURE AC maxvdbb max vdb(b)

* MIN
.MEASURE AC minvb min v(b)
.MEASURE AC minvmb min vm(b)
.MEASURE AC minvrb min vr(b)
.MEASURE AC minvib min vi(b)
.MEASURE AC minvpb min vp(b)
.MEASURE AC minvdbb min vdb(b)

* PP
.MEASURE AC ppvb pp v(b)
.MEASURE AC ppvmb pp vm(b)
.MEASURE AC ppvrb pp vr(b)
.MEASURE AC ppvib pp vi(b)
.MEASURE AC ppvpb pp vp(b)
.MEASURE AC ppvdbb pp vdb(b)

* Use expressions
.MEASURE AC maxvrbExp max {1+vr(b)}
.MEASURE AC maxvibExp max {1+vi(b)}
.MEASURE AC minvrbExp min {1+vr(b)}
.MEASURE AC minvibExp min {1+vi(b)}
.MEASURE AC ppvrbExp pp {1+vr(b)}
.MEASURE AC ppvriExp pp {1+vi(b)}

* add FROM-TO
.MEASURE AC maxvmbFromTo max vm(b) FROM=1e3 TO=1e5
.MEASURE AC minvmbFromTo min vm(b) FROM=1e3 TO=1e5
.MEASURE AC ppvmbFromTo pp vm(b) FROM=1e3 TO=1e5

* OUTPUT= qualifier
.MEASURE AC FreqOfMaxvb max vr(b) OUTPUT=FREQ
.MEASURE AC FreqOfMinvb min vr(b) OUTPUT=FREQ

* Tests should return -1 or -100, since the FROM-T0 window 
* has various problems.
.measure ac maxReturnNegOne max v(b) FROM=1e7 TO=1e8
.measure ac maxReturnNeg100 max vr(b) FROM=1e6 TO=1e2 DEFAULT_VAL=-100
.measure ac minReturnNegOne min vi(b) TO=-1e6
.measure ac minReturnNeg100 min vm(b) FROM=1e7 TO=1e8 DEFAULT_VAL=-100
.measure ac ppReturnNegOne pp vp(b) FROM=1e7 TO=1e8
.measure ac ppReturnNeg100 pp vdb(b) FROM=1e7 TO=1e8 DEFAULT_VAL=-100

.end

